US07932279B2
2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic Acid (3-dimethylamino-propyl)-methyl-amide (64)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid and N,N,N′-trimethyl-1,3-propanediamine as described in general procedure D. LCMS: 469 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)O | C32H30N4O5
reactant | N,N,N′-trimethyl-1,3-propanediamine | CN(CCCNC)C | C6H16N2
product | 2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic Acid (3-dimethylamino-propyl)-methyl-amide | CN(CCCN(C(=O)C=1C=C(C=CC1)C1=C(C=C(C(=C1)C1=NN=NN1CCCOC)O)O)C)C | C24H32N6O4
